US05710150
To 300 ml of tetrahydrofuran solution containing 2.62 g of diisopropylamine and 2.91 g of potassium t-butoxide was added dropwise 16.2 ml of 1.6N n-hexane solution of n-butyllithilum at -78° C., followed by 30 minutes of stirring at -78° C. To this reaction solution was added 70 ml of tetrahydrofuran solution containing 7.2 g of 4-fluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one, followed by 1 hour of stirring at -78° C. The reaction solution was mixed with 70 ml of tetrahydrofuran solution containing 10.22 g of N-fluorobenzenesulfonimide, and the mixture was stirred for 2 hours at -78° C. and then for 1 hour at room temperature. The reaction solution was mixed with 500 ml of 0.1N hydrochloric acid aqueous solution and the mixture was extracted with ethyl acetate. The resulting organic layer was washed with 10% sodium thiosulfate, 1N sodium hydroxide and saturated sodium chloride aqueous solution in that order and dried over anhydrous magnesium sulfate, subsequently evaporating the solvent. The resulting residue was applied to silica gel column chromatography, which was eluted with a mixed solvent of n-hexane and ethyl acetate (4:1, v/v) to obtain 2.31 g of 4,4-difluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one.

reactant | diisopropylamine | 2.62 g | C(C)(C)NC(C)C | C6H15N
reactant | potassium t-butoxide | 2.91 g | CC(C)([O-])C.[K+]
reactant | 4-fluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 7.2 g | FC1CCN(C2=C(C1=O)C=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C17H16FNO3S
reactant | N-fluorobenzenesulfonimide | 10.22 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | hydrochloric acid | 0.1N, 500 ml | Cl | ClH
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.6N, 16.2 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4,4-difluoro-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 2.31 g | FC1(CCN(C2=C(C1=O)C=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)F | C17H15F2NO3S
